US04772600
(R)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid 2-hydroxyethyl ester hydrochloride [1:1]
A solution of (R)-N-[3-[(4-chlorobenzoyl)amino]-2-pyridinyl]alanine methyl ester (42.5 g, 0.0127 mole) in ethylene glycol (250 ml) was refluxed under nitrogen for one hour. The solution was cooled to room temperature and approximately 5 ml of the solution was added to water. Ethyl acetate was added and the layers were separated. The aqueous layer was extracted with two additional portions of ethyl acetate and the combined organic layers were washed three times with a saturated sodium chloride solution. The ethyl acetate layer was dried over sodium sulfate, filtered, and evaporated to an oil under reduced pressure. The oil was dissolved in isopropyl alcohol and was made acidic with hydrogen chloride/isopropyl alcohol. Addition of isopropyl ether to the cloud point gave a solid. The solid was collected by filtration, rinsed with isopropyl ether and dried under high vacuum at room temperature to give 0.25 g of title compound, mp 191°-195° C.

reactant | (R)-N-[3-[(4-chlorobenzoyl)amino]-2-pyridinyl]alanine methyl ester | 0.0127 mole, 42.5 g | COC([C@H](NC1=NC=CC=C1NC(C1=CC=C(C=C1)Cl)=O)C)=O | C16H16ClN3O3
reactant | water | O | H2O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol | 250 ml | C(CO)O | C2H6O2
product | (R)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid 2-hydroxyethyl ester hydrochloride | 0.25 g | Cl.OCCOC([C@H](N1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Cl)C)=O | InChI=1S/C17H16ClN3O3.ClH/c1-11(17(23)24-10-9-22)21-15(12-4-6-13(18)7-5-12)20-14-3-2-8-19-16(14)21;/h2-8,11,22H,9-10H2,1H3;1H/t11-;/m1./s1
